US08431596B2
Cyclopropanecarboxylic acid [5-(1-propyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide (WW-124)
Cyclopropanecarboxylic acid (5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amide (0.05 g, 0.178 mmol), 1-propyl-1H-pyrazole-4-boronic acid, pinacol ester (0.054 g, 0.231 mmol) and dimethylacetamide (1 mL) were added to a microwave tube containing a stirrer bar, potassium phosphate solution (0.5M in water, 0.7 mL, 0.356 mmol) and tetrakis(triphenylphosphine)palladium (0.02 g, 0.018 mmol). The reaction was heated to 150° C. for 10 min under microwave heating. The crude was purified straight away by preparatory chromatography after filtration. LCMS method: 2, RT: 3.75 min; MI: 311 [M+1]; NMR 1H (DMSO): 0.80-0.88 (m, 7H), 1.78-1.90 (m, 2H), 2.05 (brs, 1H), 4.16 (t, 2H), 7.52 (dd, 1H), 7.55 (d, 1H), 7.66 (t, 1H), 8.51 (s, 1H), 8.86 (s, 1H), 11.11 (brs, 1H).

reactant | Cyclopropanecarboxylic acid (5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amide | 0.178 mmol, 0.05 g | BrC1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C10H9BrN4O
reactant | 1-propyl-1H-pyrazole-4-boronic acid | C(CC)N1N=CC(=C1)B(O)O | C6H11BN2O2
reactant | potassium phosphate | 0.356 mmol, 0.5M, 0.7 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.018 mmol, 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dimethylacetamide | 1 mL | CC(=O)N(C)C | C4H9NO
product | Cyclopropanecarboxylic acid [5-(1-propyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide | C(CC)N1N=CC(=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C16H18N6O
